US07115611B2
A] 2-{4-[2-Cyclopropyl-6-(4-trifluoromethoxy-phenyl)-pyridin-3-ylmethylsulfanyl]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester
In analogy to the procedure described in example 142D], 2-(4-acetylsulfanyl-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (example 142C]) was reacted with 3-chloromethyl-2-cyclopropyl-6-(4-trifluoromethoxy-phenyl)-pyridine (example 143F]) to give the title compound as colorless oil.

reactant | 2-(4-acetylsulfanyl-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)SC(C)=O)C)=O | C15H20O4S
reactant | 3-chloromethyl-2-cyclopropyl-6-(4-trifluoromethoxy-phenyl)-pyridine | ClCC=1C(=NC(=CC1)C1=CC=C(C=C1)OC(F)(F)F)C1CC1 | C16H13ClF3NO
product | 2-{4-[2-Cyclopropyl-6-(4-trifluoromethoxy-phenyl)-pyridin-3-ylmethylsulfanyl]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)SCC=1C(=NC(=CC1)C1=CC=C(C=C1)OC(F)(F)F)C1CC1)C)=O | C29H30F3NO4S
